US05342846
6,8-Difluoro-1-(2-fluoroethyl)-7-[3-(1,2,3-triazol-1-yl) pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
3-(1,2,3-triazol-1-yl)pyrrolidinehydrochloride (87 mg) and DBU (76 mg) were added to a suspension of 1-(2-fluoroethyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (72 mg, 0.25 mmol) in acetonitrile (5 ml). The reaction mixture was refluxed for 21 hrs, concentrated and the residue was diluted with water. The separated solid was filtered, washed with water and acetonitrile to give 35 mg of the title product. m.p. 240°-243° C. (dec). 1H NMR (TFA) δ: 9.76 (s, 1H), 9.08 (s, 1H), 8.73 (s, 1H), 8.12 (d, 13.7Hz, 1H), 5.8-5.6 (m, 1H), 5.4-4.1 (m, 9H), 3.0-2.65 (m, 2H). Anal. Calcd. for C18H16F3N5O3 . 1/2 H2O; C, 51.93; H, 4.12; N, 16.32.Found: C, 51.77; H, 3.84; N, 15.6.

reactant | 3-(1,2,3-triazol-1-yl)pyrrolidinehydrochloride | 87 mg | Cl.N1(N=NC=C1)C1CNCC1
reactant | DBU | 76 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-(2-fluoroethyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.25 mmol, 72 mg | FCCN1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H7F4NO3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 6,8-Difluoro-1-(2-fluoroethyl)-7-[3-(1,2,3-triazol-1-yl) pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 35 mg | FC=1C=C2C(C(=CN(C2=C(C1N1CC(CC1)N1N=NC=C1)F)CCF)C(=O)O)=O | C18H16F3N5O3
